US06489347B1
3-Carboxy-4-(4-fluorophenyl)piperidine-6-one
A solution of 4-(4-fluorophenyl)-3-carboxyethylpiperidin-6-one (2.0 g, 0.0075 mol) in ethanol (10 ml) was added to a solution of sodium hydroxide (0.4 g, 0.01 mol) in 95% ethanol and the mixture brought to reflux and stirred for 2.5 hours. The solvent was then removed by evaporation at reduced pressure, and the residue neutralized with 10% aqueous hydrochloric acid (25 ml) and extracted with ethyl acetate (3×20 ml). After separation, the combined organic phases were dried with anhydrous sodium sulphate, filtered, and evaporated to give only 0.1 g of a white solid. The aqueous phase was therefore lyophilized and the residue extracted with hot methanol. The residue, consisting of inorganic salts, was discarded while the methanol extracts were combined and evaporated at reduced pressure to give the title compound (1.34 g, 75%).

reactant | 4-(4-fluorophenyl)-3-carboxyethylpiperidin-6-one | 0.0075 mol, 2.0 g | FC1=CC=C(C=C1)C1C(CNC(C1)=O)CCC(=O)O | C14H16FNO3
reactant | sodium hydroxide | 0.01 mol, 0.4 g | [OH-].[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 3-Carboxy-4-(4-fluorophenyl)piperidine-6-one | 0.1 g | C(=O)(O)C1CNC(CC1C1=CC=C(C=C1)F)=O | C12H12FNO3
